* sky130A LELO_EX 1:4 NMOS current mirror
.lib '/Users/macmini/.volare/volare/sky130/versions/c6d73a35f524070e85faff4a6a9eef49553ebc2b/sky130A/libs.tech/ngspice/sky130.lib.spice' tt
Vvbias vbias 0 DC 9.0000000000e-1
Iref 0 gate DC 5.0000000000e-6
XM1 gate gate 0 0 sky130_fd_pr__nfet_01v8 W=2 L=2
XM2 mout gate 0 0 sky130_fd_pr__nfet_01v8 W=8 L=2
Vmeas vbias mout DC 0
.ic v(gate)=0 v(mout)=0
.options temp=27
.control
set ngbehavior=hsa
tran 1.0000000000e-7 2.0000000000e-5 uic
meas tran ibn find i(vmeas) at=20u
print ibn
meas tran vgs_m1 find v(gate) at=20u
print vgs_m1
meas tran i_vbias avg i(vvbias)
print i_vbias
.endc
.end
